### PR TITLE
Proving confluence

### PR DESCRIPTION
**Pull request by volodeyka**

### CODE REVIEW

File: transitionsystem.v [hunk 1]
```diff
@@ -311,10 +311,206 @@ Definition tr_add_event es1 es2 := exists al, es2 = @add_event es1 al.
...
+Section IsoDef.
+
+Context (es1 es2 : exec_event_struct).
+
+Notation dom1   := (dom   es1).
+Notation lprf1  := (lprf   es1).
+Notation fresh1 := (fresh_seq dom1).
+Notation dom2   := (dom   es2).
+Notation lprf2  := (lprf   es2).
+Notation fresh2 := (fresh_seq dom2).
```
Comment (eupp) [inline transitionsystem.v:330]: I think this is an abuse of notations : )
They didn't really shorten anything here, and can only add confusion.

File: transitionsystem.v [hunk 2]
```diff
@@ -311,10 +311,206 @@ Definition tr_add_event es1 es2 := exists al, es2 = @add_event es1 al.
...
+  by rewrite (bij_eq (bij_ext _ B)).
+Qed.
+
+Lemma iso0 f: is_iso f -> f \i0 = \i0.
+Proof. by  do 2? case. Qed.
+
+End IsoDef.
+
+Definition eqv : hrel exec_event_struct exec_event_struct := 
+  fun es1 es2 => exists f, is_iso es1 es2 f.
```
Comment (eupp) [inline transitionsystem.v:354]: If we'll swap the order of arguments of `is_iso` like that `is_iso : (E -> E) -> exec_event_struct -> exec_event_struct -> Prop`, then you can see `is_iso` as transition relation labelled by the function `f`. 
Then, you'll be able to use `exlab is_iso` instead of `eqv`.

File: transitionsystem.v [hunk 3]
```diff
@@ -311,10 +311,206 @@ Definition tr_add_event es1 es2 := exists al, es2 = @add_event es1 al.
...
+
+Lemma eqv_refl : 1 ≦ eqv.
+Proof. 
+  move=> ??->. exists id; do ? split=> //; last exact/inv_bij;
+  rewrite ?map_id // => ? /=; by rewrite  ext_id.
+Qed.
+
+Lemma is_iso_comp es1 es2 es3 f g:
```
Comment (eupp) [inline transitionsystem.v:362]: We've discussed it several times. 
Your usage of `:` in `Lemmas` is inconsistent. You add or miss the space before `:` randomly. 
E.g. in previous lemma 
`Lemma eqv_refl : 1 ≦ eqv.`
But here 
`Lemma is_iso_comp es1 es2 es3 f g:`

Could you please always surround `:` by spaces (e.g. use the first variant everywhere).

File: transitionsystem.v [hunk 4]
```diff
@@ -311,10 +311,206 @@ Definition tr_add_event es1 es2 := exists al, es2 = @add_event es1 al.
...
+  - move: awc; rewrite /add_wr -{2}(iso0 I) bij_eq // /lab; move: (l aw)=> /=.
+    case L: (lprf _ aw)=> /=; case L': (lprf es3 (f aw))=> /=; by move=>->.
+  exists (add_event s4); [by exists s4 | exists h].
+  (do ? split)=> // x /=.
+  rewrite ?lprf_add_eventE /= -[fresh_id _]c -(swap1 f (fresh_id es)).
+  rewrite -/h (bij_eq b); case: ifP=> // ?; exact/l. 
+Qed.
+
+Lemma swap_dom es d e: e <= d -> d \in dom es -> 
+  swap id (fresh_id es) (fresh_id2 es) e = e.
```
Comment (eupp) [inline transitionsystem.v:454]: We should add constraints `fpred e \in dom` and `frfe \in dom` to the event structure, then you'll be able to restate this lemma in a more natural form:
```Coq
Lemma swap_dom es d e: e \in dom es -> 
      swap id (fresh_id es) (fresh_id2 es) e = e.
```

File: transitionsystem.v [hunk 5]
```diff
@@ -311,10 +311,206 @@ Definition tr_add_event es1 es2 := exists al, es2 = @add_event es1 al.
...
+Proof. move=>> [? /[dup] I [_ [f *]]]; exists f; exact/(is_iso_can I).  Qed.
+
+End Equivalence.
+
+Notation "e1 ~~ e2" := (eqv e1 e2) (at level 20).
 
+Section Confluence.
+
+Notation fresh_id  es := (fresh_seq (dom es)).
+Notation fresh_id2 es := (fresh_seq (fresh_seq (dom es) :: dom es)).
```
Comment (eupp) [inline transitionsystem.v:396]: Why not `fresh_id1` and `fresh_id2` then?

**Review by eupp — CHANGES_REQUESTED** [review]
